US07253286B2
6-Methoxycarbonyl-7-methoxy-4-(5-indolyloxy)quinoline
After mixing methyl 4-chloro-7-methoxyquinoline-6-carboxylate (described in WO0050405, p.34, 8.5 g, 33.77 mmol), 5-hydroxyindole (7 g), diisopropylethylamine (8.9 ml) and N-methylpyrrolidone (8.9 ml), the mixture was heated and stirred at 130° C. for 5 hours and then at 150° C. for 8 hours. After standing to cool, the solution was adsorbed onto silica gel and purified with a silica gel column (hexane-ethyl acetate system). Ethanol, diethyl ether and hexane were added to the obtained yellow oil, and crystals precipitated after a period of standing. The crystals were filtered out, washed with diethyl ether and hexane and then dried by aspiration to obtain light yellow crystals (3.506 g, 10.06 mmol, 29.80%).

reactant | methyl 4-chloro-7-methoxyquinoline-6-carboxylate | 33.77 mmol, 8.5 g | ClC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC | C12H10ClNO3
reactant | 5-hydroxyindole | 7 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | diisopropylethylamine | 8.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidone | 8.9 ml | CN1C(CCC1)=O | C5H9NO
product | 6-Methoxycarbonyl-7-methoxy-4-(5-indolyloxy)quinoline | 10.06 mmol, 3.506 g, 29.80% | COC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CNC2=CC1 | C20H16N2O4
